US08912169B2
Step 5: Synthesis of (racemic)-2-[(1R,3R,4R)-3,4-bis[(dibenzylamino)methyl]cyclohexyl]ethanol
To a cooled (−10° C.) solution of (racemic)-Methyl 2-[(1R,3R,4R)-3,4-bis(dibenzylcarbamoyl)cyclohexyl]acetate (8.18 g, 13.5 mmol) in THF (40 mL) is added, drop wise, lithium aluminum hydride (50 mL, 1M in THF). On complete addition, the cold bath is removed and stirring continued for 15 min. The resulting solution is heated to 55° C. and stirred at this temperature for 2.5 hr. This solution is cooled to 0° C. To the resulting solution is added, drop wise, water (1.9 mL) then NaOH (1.9 mL, 5M aqueous) then water (0.95 mL). The resulting mixture is diluted with Et2O (100 mL), filtered through Celite and the filtrate concentrated under vacuum to give the title compound as an oil (8.1 g). ESI-MS (m/z) 547 (MH)+.

reactant | (racemic)-Methyl 2-[(1R,3R,4R)-3,4-bis(dibenzylcarbamoyl)cyclohexyl]acetate | 13.5 mmol, 8.18 g | C(C1=CC=CC=C1)N(C(=O)[C@@H]1C[C@@H](CC[C@H]1C(N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC(=O)OC)CC1=CC=CC=C1 | C39H42N2O4
reactant | lithium aluminum hydride | 1M, 50 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (racemic)-2-[(1R,3R,4R)-3,4-bis[(dibenzylamino)methyl]cyclohexyl]ethanol | 8.1 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@H]1C[C@@H](CC[C@H]1CN(CC1=CC=CC=C1)CC1=CC=CC=C1)CCO | C38H46N2O
